### PR TITLE
Add code for Theo Hepburn's Final Year Project

### PR DESCRIPTION
**Pull request by TheoXIII**
As requested by Todd and Vincent, this pull request will add the code for my Final Year Project, "Proving time complexity of algorithms and formalising complexity classes in Agda", where I formalise the concept of time complexity, define a simple Lambda calculus-like language, prove the time complexity of some programs in this language, and formalise the complexity classes P and NP. I have also contributed some additional proofs that I wrote about natural number ordering and exponentiation to Naturals.Order and Naturals.Multiplication.

### CODE REVIEW

**Comment by martinescardo** [comment]
Thanks, @TheoXIII. Thanks for your contribution. It will take a few days for me to be able to review this to conform to TypeTopology.

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 1]
```diff
@@ -0,0 +1,223 @@
...
+call-intermediate-l env t s l = (pr₁ (env [ t ]ᵢ s)) (thunk-type l)
+
+time-independent-of-list-values : {τ : LType} {n : ℕ} {Γ : Ctx n}
+                                → (env : Envᵢ Γ)
+                                → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+                                → (strategy : Strategy)
+                                → (Term Γ (list ⇒ τ))
+                                → 𝓤₀ ̇
+time-independent-of-list-values env (inl refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda]: 3.2.2

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 2]
```diff
@@ -0,0 +1,223 @@
...
+
+time-independent-of-list-values-n : {τ : LType} {n : ℕ} {Γ : Ctx n}
+                                  → (env : Envᵢ Γ)
+                                  → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+                                  → (strategy : Strategy)
+                                  → (program : Term Γ (list ⇒ nat ⇒ τ))
+                                  → 𝓤₀ ̇
+time-independent-of-list-values-n env (inl refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂) → (n₁ n₂ : ℕ)
+  → pr₁ (pr₁ (pr₁ (env [ program ]ᵢ strategy) (thunk-type l₁)) (thunk-type n₁))
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda]: 3.2.3

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 3]
```diff
@@ -0,0 +1,223 @@
...
+
+is-polytime-to-polybig-o : {τ : LType} {n : ℕ} {Γ : Ctx n}
+                        → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+                        → (program : Term (list ∷ Γ) τ)
+                        → (k : ℕ)
+                        → (Σ C ꞉ ℕ , Σ N₀ ꞉ ℕ , Π l ꞉ List ℕ , Π env ꞉ Envᵢ Γ ,
+                          is-polytime k C N₀ (length l)
+                          (get-time nat-or-list (pr₁ (env [ lam list program ]ᵢ
+                          eager) (thunk-type l))))
+                        → Π env ꞉ Envᵢ Γ ,
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda]: 3.2.6 (comma at end)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 4]
```diff
@@ -0,0 +1,223 @@
...
+                          ((list-time-function-naive env nat-or-list
+                          (lam list program) eager) ∈O[ (λ n → n ^ k) ])
+is-polytime-to-polybig-o (inl refl) program k (C , N₀ , f) env
+ = big-o (C , (N₀ , λ n le → transport (λ z → pr₁
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda]: 4.1.3 (start the arguments on the following line; also the split up transport is difficult to parse so better identation would help)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 5]
```diff
@@ -0,0 +1,223 @@
...
+   (naive-list-length-lemma n ⁻¹) (f (gen-naive-list n) env (transport (N₀ ≤_)
+   (naive-list-length-lemma n) le))))
+is-polytime-to-polybig-o (inr refl) program k (C , N₀ , f) env
+ = big-o (C , (N₀ , λ n le → transport (λ z → pr₁
+   (pr₁ (eager-function-list env program)
+   (0 , return (gen-naive-list n))) ≤ (C * z ^ k))
+   (naive-list-length-lemma n ⁻¹) (f (gen-naive-list n) env (transport (N₀ ≤_)
+   (naive-list-length-lemma n) le))))
+
+thunk-if-lemma : {τ : LType} → (eq : (τ ＝ nat) ∔ (τ ＝ list))
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda]: 3.2.7 (eq should be on next line)

File: source/TGH/BigO.lagda [hunk 6]
```diff
@@ -0,0 +1,19 @@
...
+{-# OPTIONS --safe --without-K #-}
+
+module TGH.BigO where
+
+open import MLTT.Spartan
+open import Naturals.Multiplication
+open import Naturals.Order renaming (_≤ℕ_ to _≤_)
+
+data _∈O[_] (f : ℕ → ℕ) (g : ℕ → ℕ) : 𝓤₀  ̇ where
+ big-o : Σ c ꞉ ℕ , Σ N₀ ꞉ ℕ , Π N ꞉ ℕ , (N₀ ≤ N → f N ≤ c * (g N))
```
Comment (tnttodda) [inline source/TGH/BigO.lagda:16]: 3.0.1

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 7]
```diff
@@ -0,0 +1,223 @@
...
+
+get-time : {τ : LType} → ((τ ＝ nat) ∔ (τ ＝ list)) → ⟦ τ ⟧ᵢ → ℕ
+get-time (inl refl) x = pr₁ x
+get-time (inr refl) x = pr₁ x
+
+gen-naive-list : (n : ℕ) → List ℕ
+gen-naive-list zero = []
+gen-naive-list (succ n) = 0 ∷ gen-naive-list n
+
+call-intermediate-l : {σ : LType} {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:41]: 3.1.1

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 8]
```diff
@@ -0,0 +1,223 @@
...
+                                → (strategy : Strategy)
+                                → (Term Γ (list ⇒ τ))
+                                → 𝓤₀ ̇
+time-independent-of-list-values env (inl refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂)
+   → pr₁ (call-intermediate-l env program strategy l₁)
+   ＝ pr₁ (call-intermediate-l env program strategy l₂)
+time-independent-of-list-values env (inr refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂)
+   → pr₁ (call-intermediate-l env program strategy l₁)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:58]: 3.1.2

File: source/TGH/ComplexityDefinitionsResults.lagda (hunk 2 above)
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:69]: 3.1.3

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 9]
```diff
@@ -0,0 +1,223 @@
...
+                                  → (strategy : Strategy)
+                                  → (program : Term Γ (list ⇒ nat ⇒ τ))
+                                  → 𝓤₀ ̇
+time-independent-of-list-values-n env (inl refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂) → (n₁ n₂ : ℕ)
+  → pr₁ (pr₁ (pr₁ (env [ program ]ᵢ strategy) (thunk-type l₁)) (thunk-type n₁))
+  ＝ pr₁ (pr₁ (pr₁ (env [ program ]ᵢ strategy) (thunk-type l₂)) (thunk-type n₂))
+time-independent-of-list-values-n env (inr refl) strategy program
+ = (l₁ l₂ : List ℕ) → (length l₁ ＝ length l₂) → (n₁ n₂ : ℕ)
+  → pr₁ (pr₁ (pr₁ (env [ program ]ᵢ strategy) (thunk-type l₁)) (thunk-type n₁))
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:73]: 3.1.3

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 10]
```diff
@@ -0,0 +1,223 @@
...
+naive-list-length-lemma : (n : ℕ) → n ＝ length (gen-naive-list n)
+naive-list-length-lemma zero = refl
+naive-list-length-lemma (succ n) = ap succ (naive-list-length-lemma n)
+
+is-linear-time : {τ : LType} {n : ℕ} {Γ : Ctx n}
+               → (program : Term Γ (list ⇒ τ))
+               → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+               → 𝓤₀ ̇
+is-linear-time {τ} {n} {Γ} program nat-or-list
+ = Σ C ꞉ ℕ , Σ N₀ ꞉ ℕ , Π l ꞉ List ℕ , Π env ꞉ Envᵢ Γ ,
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:96]: 3.1.4 (comma at end should be on next line, under the = sign)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 11]
```diff
@@ -0,0 +1,223 @@
...
+   is-polytime 1 C N₀ (length l)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:97]: 4.1.1 (arguments to is-polytime could be intended better, e.g.:
```
is-polytime
 1 C N_0 (length l)
 (get-time ...)
```

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 12]
```diff
@@ -0,0 +1,223 @@
...
+   (get-time nat-or-list (pr₁ (env [ program ]ᵢ eager) (thunk-type l)))
+
+is-linear-time-n : {τ : LType} {n : ℕ} {Γ : Ctx n}
+                 → (program : Term Γ (list ⇒ nat ⇒ τ))
+                 → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+                 → 𝓤₀ ̇
+is-linear-time-n {τ} {n} {Γ} program nat-or-list
+ = Σ C ꞉ ℕ , Σ N₀ ꞉ ℕ , Π l ꞉ List ℕ , Π x ꞉ ℕ , Π env ꞉ Envᵢ Γ ,
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:105]: 3.1.5 (same as above)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 13]
```diff
@@ -0,0 +1,223 @@
...
+   is-polytime 1 C N₀ (length l) (get-time nat-or-list
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:106]: 4.1.2 (same as above)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 14]
```diff
@@ -0,0 +1,223 @@
...
+   (pr₁ (pr₁ (env [ program ]ᵢ eager) (thunk-type l)) (thunk-type x)))
+
+is-polytime-to-polybig-o : {τ : LType} {n : ℕ} {Γ : Ctx n}
+                        → (nat-or-list : (τ ＝ nat) ∔ (τ ＝ list))
+                        → (program : Term (list ∷ Γ) τ)
+                        → (k : ℕ)
+                        → (Σ C ꞉ ℕ , Σ N₀ ꞉ ℕ , Π l ꞉ List ℕ , Π env ꞉ Envᵢ Γ ,
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:113]: 5.1.1 (Doesn’t the sigmatype want to be replaced with is-linear-time-n?)

File: source/TGH/ComplexityDefinitionsResults.lagda (hunk 3 above)
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:117]: 3.1.6 (comma at end)

File: source/TGH/ComplexityDefinitionsResults.lagda (hunk 4 above)
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:121]: 4.1.3 (start the arguments on the following line; also the split up transport is difficult to parse so better identation would help)

File: source/TGH/ComplexityDefinitionsResults.lagda (hunk 5 above)
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:133]: 3.1.7 (eq should be on next line)

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 15]
```diff
@@ -0,0 +1,223 @@
...
+   (naive-list-length-lemma n) le))))
+is-polytime-to-polybig-o (inr refl) program k (C , N₀ , f) env
+ = big-o (C , (N₀ , λ n le → transport (λ z → pr₁
+   (pr₁ (eager-function-list env program)
+   (0 , return (gen-naive-list n))) ≤ (C * z ^ k))
+   (naive-list-length-lemma n ⁻¹) (f (gen-naive-list n) env (transport (N₀ ≤_)
+   (naive-list-length-lemma n) le))))
+
+thunk-if-lemma : {τ : LType} → (eq : (τ ＝ nat) ∔ (τ ＝ list))
+               → (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:134]: 2.1.1

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 16]
```diff
@@ -0,0 +1,223 @@
...
+               → (y : ⟦ τ ⟧ᵢ)
+               → (z : ⟦ τ ⟧ᵢ)
+               → get-time eq (thunk-if x y z) ≤ succ (max (get-time eq y)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:137]: 5.1.2 (I suggest putting the <= on the following line, for readability)

File: source/TGH/ComplexityDefinitionsResults.lagda (hunk 1 above)
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:53]: 3.1.2

File: source/Naturals/Exponentiation.lagda [hunk 17]
```diff
@@ -58,3 +58,28 @@ exponents-not-zero (succ n) e = exponents-not-zero n I
...
 \end{code}
+
+Theo Hepburn, started February 2025
+
+Contains a proof that exponentiation distributes over
+multiplication.
+
+\begin{code}
+
+^-over-* : (n m k : ℕ) → (n * m) ℕ^ k ＝ (n ℕ^ k * m ℕ^ k)
```
Comment (tnttodda) [inline source/Naturals/Exponentiation.lagda:69]: Try to align the equals symbols -- perhaps placing them on a new line with a single space indent between the terms

File: source/Naturals/Order.lagda [hunk 18]
```diff
@@ -936,3 +936,283 @@ triangle-inequality-bound' a b l = triangle-inequality-bound a b γ
...
+  γ₂ : b * (n ℕ^ y) ＝ (0 ∔ b) * (n ℕ^ y)
+  γ₂ = ap (λ x → x * (n ℕ^ y)) (zero-left-neutral b)⁻¹
+
+  γ₃ : b * (n ℕ^ y) ≤ b * (n ℕ^ y)
+  γ₃ = ≤-refl (b * (n ℕ^ y))
+exponent-addition a@(succ _) zero x y n c l = transport₂ _≤_ γ₁ γ₂ γ₄
+ where
+  γ₁ : a * (n ℕ^ x) ＝ a * (n ℕ^ x) ∔ 0 * (n ℕ^ y)
+  γ₁ = a * (n ℕ^ x) ＝⟨ refl ⟩
+       a * (n ℕ^ x) ∔ 0 ＝⟨ ap (λ z → a * (n ℕ^ x) ∔ z)
```
Comment (tnttodda) [inline source/Naturals/Order.lagda:1077]: Try to align the equals symbols -- perhaps placing them on a new line with a single space indent between the terms

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 19]
```diff
@@ -0,0 +1,223 @@
...
+ = max-≤-upper-bound' (pr₁ z) (pr₁ y)
+thunk-if-lemma (inl refl) (succ n , (√ x)) y z
+ = thunk-if-lemma (inl refl) (n , x) y z
+thunk-if-lemma (inr refl) (succ n , (√ x)) y z
+ = thunk-if-lemma (inr refl) (n , x) y z
+
+adding-times-lemma : {σ τ : LType} {n : ℕ} {Γ : Ctx n}
+                   → (eq₁ : (σ ＝ nat) ∔ (σ ＝ list))
+                   → (eq₂ : (τ ＝ nat) ∔ (τ ＝ list))
+                   → (env : Envᵢ Γ) → (program : Term (σ ∷ Γ) τ)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:155]: 3.1.8

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 20]
```diff
@@ -0,0 +1,223 @@
...
+                   → (x : ⟦ σ ⟧ᵢ)
+                   → (get-time eq₂ (((thunk-type (strip-thunk x)) ∷Eᵢ env)
+                     [ program ]ᵢ eager)) + (get-time eq₁ x)
+                     ＝ get-time eq₂ ((pr₁ (env [ lam σ program ]ᵢ eager)) x)
+adding-times-lemma (inl refl) (inl refl) env program x = γ x
+ where
+   γ : (x : Σ t ꞉ ℕ , Thunk t ℕ) → pr₁ (((0 , return (strip-thunk x)) ∷Eᵢ env)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:162]: 2.1.2 and 3.1.8

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 21]
```diff
@@ -0,0 +1,223 @@
...
+       [ program ]ᵢ eager) + (pr₁ x) ＝ pr₁ (eager-function-nat-helper env
+       program x)
+   γ (zero , return x) = refl
+   γ (succ n , (√ x)) = ap succ (γ (n , x))
+adding-times-lemma (inl refl) (inr refl) env program x = γ x
+ where
+   γ : (x : Σ t ꞉ ℕ , Thunk t ℕ) → pr₁ (((0 , return (strip-thunk x)) ∷Eᵢ env)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:169]: 2.1.2 and 3.1.8

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 22]
```diff
@@ -0,0 +1,223 @@
...
+       [ program ]ᵢ eager) + (pr₁ x) ＝ pr₁ (eager-function-nat-helper env
+       program x)
+   γ (zero , return x) = refl
+   γ (succ n , (√ x)) = ap succ (γ (n , x))
+adding-times-lemma (inr refl) (inl refl) env program x = γ x
+ where
+  γ : (x : Σ t ꞉ ℕ , Thunk t (List ℕ))
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:176]: 2.1.2 and 3.1.8

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 23]
```diff
@@ -0,0 +1,223 @@
...
+    → pr₁ (((0 , return (strip-thunk x)) ∷Eᵢ env) [ program ]ᵢ eager) + (pr₁ x)
+    ＝ pr₁ (eager-function-list-helper env program x)
+  γ (zero , return x) = refl
+  γ (succ n , (√ x)) = ap succ (γ (n , x))
+adding-times-lemma (inr refl) (inr refl) env program x = γ x
+ where
+  γ : (x : Σ t ꞉ ℕ , Thunk t (List ℕ))
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:183]: 2.1.2 and 3.1.8

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 24]
```diff
@@ -0,0 +1,223 @@
...
+    → pr₁ (((0 , return (strip-thunk x)) ∷Eᵢ env) [ program ]ᵢ eager)
+    + (pr₁ x) ＝ pr₁ (eager-function-list-helper env program x)
+  γ (zero , return x) = refl
+  γ (succ n , (√ x)) = ap succ (γ (n , x))
+
+adding-times-lemma-l-n-l : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:189]: 3.1.9

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 25]
```diff
@@ -0,0 +1,223 @@
...
+                         → (program : Term (nat ∷ list ∷ Γ) list)
+                         → (l : Σ t ꞉ ℕ , Thunk t (List ℕ))
+                         → (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:192]: 2.1.3

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 26]
```diff
@@ -0,0 +1,223 @@
...
+                         → (pr₁ (((thunk-type {nat} (strip-thunk x))
+                         ∷Eᵢ (thunk-type {list} (strip-thunk l)) ∷Eᵢ env)
+                         [ program ]ᵢ eager)) + pr₁ l + pr₁ x ＝ pr₁ (pr₁
+                         ((pr₁ (env [ lam list (lam nat program) ]ᵢ eager))
+                         l) x)
+adding-times-lemma-l-n-l env program (zero , return x) (zero , return x₁) = refl
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:198]: Put = refl on next line

File: source/TGH/ComplexityDefinitionsResults.lagda [hunk 27]
```diff
@@ -0,0 +1,223 @@
...
+adding-times-lemma-l-n-l env program (zero , return x) (succ pr₃ , (√ x₁))
+ = ap succ (adding-times-lemma-l-n-l env program (0 , return x) (pr₃ , x₁))
+adding-times-lemma-l-n-l env program (succ pr₃ , (√ x)) (pr₅ , x₁)
+ = succ
```
Comment (tnttodda) [inline source/TGH/ComplexityDefinitionsResults.lagda:202]: 5.1.3 - We need to improve readability of this

File: source/TGH/HeadExample.lagda [hunk 28]
```diff
@@ -0,0 +1,491 @@
...
+ = ap inc-list (list-id-eager-lazy-equal (_ , x))
+
+head : {n : ℕ} {Γ : Ctx n} → Term Γ (list ⇒ nat)
+head = lam list (lrec (var 𝟎) zero (lam nat (lam nat (var 𝟎))))
+
+list-head : List ℕ → ℕ
+list-head [] = zero
+list-head (x ∷ _) = x
+
+head-correctness : {n : ℕ} {Γ : Ctx n} {env : Env Γ} → (l : List ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:59]: 3.2.1 (l should be on next line)

File: source/TGH/HeadExample.lagda [hunk 29]
```diff
@@ -0,0 +1,491 @@
...
+                 → (env [ head ]ₑ) l ＝ list-head l
+head-correctness [] = refl
+head-correctness (_ ∷ _) = refl
+
+
+head-time-value-env-independent-lazy : {n₁ n₂ : ℕ} {Γ₁ : Ctx n₁} {Γ₂ : Ctx n₂}
+                                → {env₁ : Envᵢ Γ₁} {env₂ : Envᵢ Γ₂}
+                                → pr₁ (env₁ [ head ]ᵢ lazy)
+                                ∼ pr₁ (env₂ [ head ]ᵢ lazy)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:68]: 3.2.2 Symbols don't line up with first line

File: source/TGH/HeadExample.lagda [hunk 30]
```diff
@@ -0,0 +1,491 @@
...
+head-time-value-env-independent-lazy (zero , return []) = refl
+head-time-value-env-independent-lazy (zero , return (x ∷ x₁)) = refl
+head-time-value-env-independent-lazy {_} {_} {_} {_} {env₁} {env₂}
+ (succ pr₃ , (√ x))
+ = (inc-nat ∘ inc-nat) (list-rec-builder ((succ pr₃ , (√ x)) ∷Eᵢ env₁) (pr₃ , x)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:73]: 5.2.1 - We need to improve readability of this

File: source/TGH/HeadExample.lagda [hunk 31]
```diff
@@ -0,0 +1,491 @@
...
+      (lam nat (lam nat (var 𝟎))) lazy)
+    ＝ (list-rec-builder env₂ l zero
+      (lam nat (lam nat (var 𝟎))) lazy)
+  γ (zero , return []) = refl
+  γ (zero , return (_ ∷ _)) = refl
+  γ ((succ pr₃ , (√ x))) = ap inc-nat (γ (pr₃ , x))
+
+
+head-list-value-independent-lazy : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
+                                  → time-independent-of-list-values env
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:99]: 3.2.3

File: source/TGH/HeadExample.lagda [hunk 32]
```diff
@@ -0,0 +1,491 @@
...
+                                    (inl refl) lazy head
+head-list-value-independent-lazy env [] [] _ = refl
+head-list-value-independent-lazy env (_ ∷ _) (_ ∷ _) _ = refl
+
+lazy-head-constant-time : {n : ℕ} {Γ : Ctx n}
+                        → (env : Envᵢ Γ)
+                        → (list-time-function-naive env
+                          (inl refl) head lazy)
+                          ∈O[ (λ n → 1) ]
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:108]: 4.2.1 - Hard to read this last expression (i.e. which are arguments to list-time-function-naive)

File: source/TGH/HeadExample.lagda [hunk 33]
```diff
@@ -0,0 +1,491 @@
...
+lazy-head-constant-time env = big-o (2 , (1 , γ))
+ where
+  γ : (x : ℕ) →
+      1 ≤ x →
+      pr₁ ((pr₁ (env [ head ]ᵢ lazy)) (thunk-type (gen-naive-list x)))
+      ≤ 2
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:114]: 3.2.4 (arrows and <= symbol in wrong place)

File: source/TGH/HeadExample.lagda [hunk 34]
```diff
@@ -0,0 +1,491 @@
...
+      (lam nat (var 𝟎)) z) (0 , return x)) (eager-head-env-lemma-II l) ⟩
+    pr₁
+      (eager-function-nat-helper env₁ (lam nat (var 𝟎))
+       (list-recᵢ env₂ l zero (lam nat (lam nat (var 𝟎))) eager))
+      (0 , return x) ＝⟨ eager-head-env-lemma-I (list-recᵢ env₂ l zero
+      (lam nat (lam nat (var 𝟎))) eager) ⟩
+    pr₁
+      (eager-function-nat-helper env₂ (lam nat (var 𝟎))
+       (list-recᵢ env₂ l zero (lam nat (lam nat (var 𝟎))) eager))
+      (0 , return x) ∎
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:148]: 5.2.3 - We need to improve readability of this

File: source/TGH/HeadExample.lagda [hunk 35]
```diff
@@ -0,0 +1,491 @@
...
+
+head-list-value-independent-eager : {n : ℕ} {Γ : Ctx n}
+                                  → (env : Envᵢ Γ)
+                                  → time-independent-of-list-values
+                                    env (inl refl) eager head
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:153]: 4.2.2 (arguments should be indented with a space)

File: source/TGH/HeadExample.lagda [hunk 36]
```diff
@@ -0,0 +1,491 @@
...
+     (pr₁
+      (eager-function-nat-helper (_ ∷Eᵢ env) (lam nat (var 𝟎))
+       (list-recᵢ (_ ∷Eᵢ env) l₂ zero (lam nat (lam nat (var 𝟎)))
+        eager))
+      (0 , return x₁))) ＝⟨ (ap (succ ∘ pr₁)
+      (eager-head-env-lemma-II (x₁ ∷ l₂)))⁻¹ ⟩
+   succ
+    (pr₁
+     (list-recᵢ ((0 , return (x₁ ∷ l₂)) ∷Eᵢ env) (x₁ ∷ l₂) zero
+      (lam nat (lam nat (var 𝟎))) eager)) ∎
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:176]: 5.2.4

File: source/TGH/HeadExample.lagda [hunk 37]
```diff
@@ -0,0 +1,491 @@
...
+ where
+  IH : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:178]: 3.2.5

File: source/TGH/HeadExample.lagda [hunk 38]
```diff
@@ -0,0 +1,491 @@
...
+     → (l₁ l₂ : List ℕ) → (eq : length l₁ ＝ length l₂)
+     → pr₁ (eager-function-list-helper env (lrec (var 𝟎) zero
+       (lam nat (lam nat (var 𝟎)))) (thunk-type l₁))
+     ＝ pr₁ (eager-function-list-helper env (lrec (var 𝟎) zero
+       (lam nat (lam nat (var 𝟎)))) (thunk-type l₂))
+  IH env l₁ l₂ eq = head-list-value-independent-eager env l₁ l₂ eq
+
+  γ₀ : {n₁ n₂ : ℕ} {Γ₁ : Ctx n₁} {Γ₂ : Ctx n₂}
+       {env₁ : Envᵢ Γ₁} {env₂ : Envᵢ Γ₂}
+     → (z₁ z₂ : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:188]: 2.2.1

File: source/TGH/HeadExample.lagda [hunk 39]
```diff
@@ -0,0 +1,491 @@
...
+      (list-recᵢ (_∷Eᵢ_ {_} {_} {list} (0 , return l₁) env) l₁
+        zero (lam nat (lam nat (var 𝟎))) eager))
+    ＝ (pr₁
+      (list-recᵢ (_∷Eᵢ_ {_} {_} {list} (0 , return l₂) env) l₂
+        zero (lam nat (lam nat (var 𝟎))) eager))
+  γ [] [] eq = refl
+  γ (x₁ ∷ l₁) (x₂ ∷ l₂) eq = ap pred' (IH env (x₁ ∷ l₁) (x₂ ∷ l₂) eq)
+
+nat-function-lemma : {n : ℕ} {Γ : Ctx n}
+                     {env : Envᵢ Γ}
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:210]: Put {env ...} on previous line

File: source/TGH/HeadExample.lagda [hunk 40]
```diff
@@ -0,0 +1,491 @@
...
+                   → (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:211]: 2.2.2

File: source/TGH/HeadExample.lagda [hunk 41]
```diff
@@ -0,0 +1,491 @@
...
+                   → pr₁ (pr₁ (eager-function-nat-helper env
+                     (lam nat (var 𝟎)) x) (0 , return 0))
+                     ＝ succ (pr₁ x)
+nat-function-lemma (zero , return x) = refl
+nat-function-lemma (succ _ , (√ x))
+ = ap succ (nat-function-lemma (_ , x))
+
+
+eager-head-not-constant-time-lemma : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:220]: 3.2.6

File: source/TGH/HeadExample.lagda [hunk 42]
```diff
@@ -0,0 +1,491 @@
...
+                                   → (m : ℕ)
+                                   → ¬ (pr₁ (eager-function-list-helper env
+                                     (lrec (var 𝟎) zero
+                                     (lam nat (lam nat (var 𝟎))))
+             (thunk-type (gen-naive-list (succ m)))) ≤ (succ m))
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:225]: 4.2.3 (readability of this last expression)

File: source/TGH/HeadExample.lagda [hunk 43]
```diff
@@ -0,0 +1,491 @@
...
+                     {env : Envᵢ Γ}
+                   → (x : Σ t ꞉ ℕ , Thunk t ℕ)
+                   → pr₁ (pr₁ (eager-function-nat-helper env
+                     (lam nat (var 𝟎)) x) (0 , return 0))
+                     ＝ succ (pr₁ x)
+nat-function-lemma (zero , return x) = refl
+nat-function-lemma (succ _ , (√ x))
+ = ap succ (nat-function-lemma (_ , x))
+
+
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:219]: Remove extra blank line

File: source/TGH/HeadExample.lagda [hunk 44]
```diff
@@ -0,0 +1,491 @@
...
+eager-head-not-constant-time-lemma : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
+                                   → (m : ℕ)
+                                   → ¬ (pr₁ (eager-function-list-helper env
+                                     (lrec (var 𝟎) zero
+                                     (lam nat (lam nat (var 𝟎))))
+             (thunk-type (gen-naive-list (succ m)))) ≤ (succ m))
+eager-head-not-constant-time-lemma env (succ m) ineq
+ = IH' ((γ₂ (list-recᵢ
+       ((0 , return (0 ∷ 0 ∷ gen-naive-list m)) ∷Eᵢ env)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:228]: 4.2.3

File: source/TGH/HeadExample.lagda [hunk 45]
```diff
@@ -0,0 +1,491 @@
...
+       (0 ∷ gen-naive-list m) zero
+       (lam nat (lam nat (var 𝟎))) eager) ineq))
+ where
+  IH : ¬ ((pr₁ (list-recᵢ
+         ((0 , return (0 ∷ gen-naive-list m))
+         ∷Eᵢ env)
+         (0 ∷ gen-naive-list m) zero
+         (lam nat (lam nat (var 𝟎))) eager)) ≤ m)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:236]: 4.2.3

File: source/TGH/HeadExample.lagda [hunk 46]
```diff
@@ -0,0 +1,491 @@
...
+  IH = eager-head-not-constant-time-lemma env m
+
+  IH' : ¬ ((pr₁ (list-recᵢ
+          ((0 , return (0 ∷ 0 ∷ gen-naive-list m))
+           ∷Eᵢ env)
+          (0 ∷ gen-naive-list m) zero
+          (lam nat (lam nat (var 𝟎))) eager))
+         ≤ m)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:244]: 3.2.6 and 4.2.3

File: source/TGH/HeadExample.lagda [hunk 47]
```diff
@@ -0,0 +1,491 @@
...
+  IH' = transport (λ z → ¬ ((pr₁ z) ≤ m))
+        (eager-head-env-lemma-II (0 ∷ gen-naive-list m))  IH
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:246]: 4.2.3 - Indent transport argument

File: source/TGH/HeadExample.lagda [hunk 48]
```diff
@@ -0,0 +1,491 @@
...
+
+  γ₁ : (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:248]: 2.2.3

File: source/TGH/HeadExample.lagda [hunk 49]
```diff
@@ -0,0 +1,491 @@
...
+     → pr₁
+       (pr₁ (eager-function-nat-helper ((0 , return
+         (0 ∷ 0 ∷ gen-naive-list m)) ∷Eᵢ env) (lam nat (var 𝟎)) x)
+            (0 , return 0))
+     ＝ succ (pr₁ x)
+  γ₁ x = nat-function-lemma x
+
+  γ₂ : (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:256]: 2.2.3

File: source/TGH/HeadExample.lagda [hunk 50]
```diff
@@ -0,0 +1,491 @@
...
+       → pr₁
+          (pr₁ (eager-function-nat-helper _ (lam nat (var 𝟎)) x)
+           (0 , return 0))
+          ≤ succ m
+       → (pr₁ x ≤ m)
+  γ₂ x le
+   = succ-order-injective (pr₁ x) m ((transport (λ z → z ≤ succ m) (γ₁ x) le))
+
+eager-head-not-constant-time : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:265]: 3.2.7

File: source/TGH/HeadExample.lagda [hunk 51]
```diff
@@ -0,0 +1,491 @@
...
+                             →  ¬ ((list-time-function-naive env (inl refl)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:266]: 4.2.4

File: source/TGH/HeadExample.lagda [hunk 52]
```diff
@@ -0,0 +1,491 @@
...
+                                head eager)
+                          ∈O[ (λ n → 1) ])
+eager-head-not-constant-time env (big-o (C , N₀ , f)) = γ (≤-decidable N₀ C)
+ where
+  γ : N₀ ≤ C ∔ ¬ (N₀ ≤ C) → 𝟘
+  γ (inl ineq) = eager-head-not-constant-time-lemma env C (≤-trans (pr₁
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:272]: 4.2.4

File: source/TGH/HeadExample.lagda [hunk 53]
```diff
@@ -0,0 +1,491 @@
...
+        (gen-naive-list C) zero (lam nat (lam nat (var 𝟎))) eager))
+      (0 , return 0)))) C (≤-succ (pr₁
+    (pr₁
+      (eager-function-nat-helper
+      ((0 , return (0 ∷ gen-naive-list C)) ∷Eᵢ env) (lam nat (var 𝟎))
+      (list-recᵢ ((0 , return (0 ∷ gen-naive-list C)) ∷Eᵢ env)
+        (gen-naive-list C) zero (lam nat (lam nat (var 𝟎))) eager))
+    (0 , return 0)))) (f (succ C) (≤-trans N₀ C (succ C) ineq (≤-succ C))))
+             
+  γ (inr ineq) = eager-head-not-constant-time-lemma env N₀ (≤-trans (pr₁
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:292]: 4.2.4

File: source/TGH/HeadExample.lagda [hunk 54]
```diff
@@ -0,0 +1,491 @@
...
+      ((0 , return (0 ∷ gen-naive-list N₀)) ∷Eᵢ env)
+      (lam nat (var 𝟎))
+      (list-recᵢ ((0 , return (0 ∷ gen-naive-list N₀)) ∷Eᵢ env)
+        (gen-naive-list N₀) zero (lam nat (lam nat (var 𝟎))) eager))
+      (0 , return 0)))) (f (succ N₀) (≤-succ N₀))) γ₁))
+   where
+    γ₁ : succ C ≤ N₀
+    γ₁ = not-less-or-equal-is-bigger N₀ C ineq
+
+
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:348]: Remove extra blank line

File: source/TGH/HeadExample.lagda [hunk 55]
```diff
@@ -0,0 +1,491 @@
...
+eager-head-linear-time-big-o : {n : ℕ} {Γ : Ctx n}
+                            → Σ C ꞉ ℕ , Σ N₀ ꞉ ℕ , ((N : ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:350]: 3.2.8

File: source/TGH/HeadExample.lagda [hunk 56]
```diff
@@ -0,0 +1,491 @@
...
+ where
+  γ₀ : (x : ℕ)
+     → (env : Envᵢ Γ)
+     → pr₁ (eager-function-list-helper env (lrec (var 𝟎) zero
+       (lam nat (lam nat (var 𝟎))))
+       (0 , return (0 ∷ gen-naive-list x)))  ≤ 3 + 3 * x
+  γ₀ zero _ = ⋆
+  γ₀ (succ n) env = γ₉
+   where
+    γ₁ : (n : ℕ) → pr₁ (eager-function-list-helper env
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:364]: 3.2.8

File: source/TGH/HeadExample.lagda [hunk 57]
```diff
@@ -0,0 +1,491 @@
...
+
+    γ₄ : succ
+         (pr₁
+         (pr₁
+         (eager-function-nat-helper (_ ∷Eᵢ env) (lam nat (var 𝟎))
+         (list-recᵢ (_ ∷Eᵢ env) (gen-naive-list n) zero
+         (lam nat (lam nat (var 𝟎))) eager))
+         (0 , return 0)))
+         ≤ succ (2 + 3 * n)
+    γ₄ = transport (λ z → (succ (pr₁ (pr₁ (eager-function-nat-helper
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:393]: 4.2.5

File: source/TGH/HeadExample.lagda [hunk 58]
```diff
@@ -0,0 +1,491 @@
...
+           (gen-naive-list n) zero
+           (lam nat (lam nat (var 𝟎))) eager)) (0 , return 0)))) ≤ z) γ₃ γ₂
+
+    γ₅ : (pr₁
+         (pr₁
+           (eager-function-nat-helper (_ ∷Eᵢ env) (lam nat (var 𝟎))
+             (list-recᵢ (_ ∷Eᵢ env) (gen-naive-list n) zero
+               (lam nat (lam nat (var 𝟎))) eager))
+               (0 , return 0))) ≤
+             (2 + 3 * n)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:407]: 3.2.8

File: source/TGH/HeadExample.lagda [hunk 59]
```diff
@@ -0,0 +1,491 @@
...
+    γ₅ = succ-order-injective (pr₁ (pr₁ (eager-function-nat-helper
+         (_∷Eᵢ_ {_} {_} {list} (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+         (lam nat (var 𝟎))
+           (list-recᵢ (_∷Eᵢ_ {_} {_} {list}
+           (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+           (gen-naive-list n) zero
+         (lam nat (lam nat (var 𝟎))) eager)) (0 , return 0))) (2 + 3 * n) γ₄
+
+    γ₆ : (x : Σ t ꞉ ℕ , Thunk t ℕ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:416]: 2.2.4

File: source/TGH/HeadExample.lagda [hunk 60]
```diff
@@ -0,0 +1,491 @@
...
+       → pr₁ (pr₁ (eager-function-nat-helper (_∷Eᵢ_ {_} {_} {list}
+         (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env) (lam nat (var 𝟎)) x)
+         (0 , return 0)) ＝ succ (pr₁ x)
+    γ₆ x = nat-function-lemma x
+
+    γ₇ : (x : Σ t ꞉ ℕ , Thunk t ℕ) → (pr₁ x ≤ 2 + 3 * n)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:422]: 2.2.4

File: source/TGH/HeadExample.lagda [hunk 61]
```diff
@@ -0,0 +1,491 @@
...
+            (3 + 3 * n) + 1 ＝⟨ refl ⟩
+            succ (3 + 3 * n) ∎
+
+    nums₂ : (3 + (3 + 3 * n)) ＝ (3 + 3 * n) + 3
+    nums₂ = +-comm 3 (3 + 3 * n)
+
+    ineq : (3 + 3 * n) + 1 ≤ (3 + 3 * n) + 3
+    ineq = ≤-adding (3 + 3 * n) (3 + 3 * n) 1 3 (≤-refl (3 + 3 * n)) ⋆
+
+    γ₈ : (x : Σ t ꞉ ℕ , Thunk t ℕ) → (pr₁ x ≤ 2 + 3 * n)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:444]: 2.2.4

File: source/TGH/HeadExample.lagda [hunk 62]
```diff
@@ -0,0 +1,491 @@
...
+         (lam nat (var 𝟎)) x)) (0 , return 0))) ≤ 3 + (3 + 3 * n)
+    γ₈ x le = ≤-trans (succ (pr₁ ((pr₁ (eager-function-nat-helper
+              (_∷Eᵢ_ {_} {_} {list} (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+             (lam nat (var 𝟎)) x)) (0 , return 0)))) ((2 + 3 * n) + 2)
+             (3 + (3 + 3 * n))
+             (succ-monotone (pr₁ ((pr₁ (eager-function-nat-helper
+             (_∷Eᵢ_ {_} {_} {list} (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+             (lam nat (var 𝟎)) x)) (0 , return 0)))
+             (succ (2 + 3 * n)) (γ₇ x le))
+             (transport₂ _≤_ ((nums₁)⁻¹) ((nums₂)⁻¹) ineq)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:456]: 4.2.5

File: source/TGH/HeadExample.lagda [hunk 63]
```diff
@@ -0,0 +1,491 @@
...
+
+    γ₉ : pr₁ (eager-function-list-helper env
+         (lrec (var 𝟎) zero (lam nat (lam nat (var 𝟎))))
+           (0 , return (0 ∷ 0 ∷ gen-naive-list n))) ≤ (3 + (3 + 3 * n))
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:460]: 3.2.8

File: source/TGH/HeadExample.lagda [hunk 64]
```diff
@@ -0,0 +1,491 @@
...
+         (eager-function-nat-helper
+         (_∷Eᵢ_ {_} {_} {list} (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+         (lam nat (var 𝟎))
+         (list-recᵢ
+           (_∷Eᵢ_ {_} {_} {list} (0 , return (0 ∷ 0 ∷ gen-naive-list n)) env)
+           (gen-naive-list n) zero
+           (lam nat (lam nat (var 𝟎))) eager))
+         (0 , return 0)) γ₅
+
+  γ : (x : ℕ) → (1 ≤ x) → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:471]: 3.2.8

File: source/TGH/HeadExample.lagda [hunk 65]
```diff
@@ -0,0 +1,491 @@
...
+    → pr₁ (eager-function-list-helper env (lrec (var 𝟎) zero
+      (lam nat (lam nat (var 𝟎))))
+      (thunk-type (gen-naive-list x))) ≤ 3 * x
+  γ (succ x) le env = γ₀ x env
+
+eager-head-linear-time : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:477]: 3.2.9

File: source/TGH/HeadExample.lagda [hunk 66]
```diff
@@ -0,0 +1,491 @@
...
+eager-head-linear-time env
+ = big-o (3 , (1 , (λ n le → pr₂ (pr₂ eager-head-linear-time-big-o) n le env)))
+
+eager-head-linear-time' : {n : ℕ} {Γ : Ctx n}
+                        → is-linear-time {_} {n} {Γ} head (inl refl)
+eager-head-linear-time'
+ = 3 , (1 , λ xs env le → transport (_≤ 3 * length xs)
+   (head-list-value-independent-eager env (gen-naive-list (length xs)) xs
+   (naive-list-length-lemma (length xs) ⁻¹))
+   (pr₂ (pr₂ (eager-head-linear-time-big-o)) (length xs) le env))
```
Comment (tnttodda) [inline source/TGH/HeadExample.lagda:489]: 4.2.6

File: source/TGH/InsertionSortCorrectness.lagda [hunk 67]
```diff
@@ -0,0 +1,760 @@
...
+open import MLTT.Vector renaming (Vector to Vec)
+open import MLTT.Fin
+open import MLTT.List hiding (concat)
+open import UF.Base
+open import TGH.Thunk
+open import TGH.Language fe
+open import TGH.AFP2024.InsertionSort ℕ _<_ <-trichotomous
+ renaming (insert to insert')
+
+call-intermediate-l-n : {σ : LType} → Closed (list ⇒ nat ⇒ σ)
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:31]: 3.3.1

File: source/TGH/InsertionSortCorrectness.lagda
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:1]: 4.3 - To save repeated comments, check all multiline functions in this file that start 'lam list' for correct indentation

File: source/TGH/InsertionSortCorrectness.lagda [hunk 68]
```diff
@@ -0,0 +1,760 @@
...
+                      → (strategy : Strategy) → List ℕ → ℕ → ⟦ σ ⟧ᵢ
+call-intermediate-l-n t s l n
+ = (pr₁ ((pr₁ ([] [ t ]ᵢ s)) (0 , (return l)))) (0 , return n)
+
+subtract : {n : ℕ} {Γ : Ctx n} → Term Γ (nat ⇒ nat ⇒ nat)
+subtract = lam nat (lam nat (nrec (var 𝟎) (var 𝟏) (lam nat (pred (var 𝟎)))))
+
+concat : {n : ℕ} {Γ : Ctx n} → Term Γ (list ⇒ list ⇒ list)
+concat = lam list (lam list (lrec (var 𝟏) (var 𝟎)
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:40]: 4.3

File: source/TGH/InsertionSortCorrectness.lagda [hunk 69]
```diff
@@ -0,0 +1,760 @@
...
+ = lam list (lam nat (concat ∙
+   (remove-greater-than-from-end ∙ (var 𝟏) ∙ (var 𝟎))
+   ∙ (cons (var 𝟎) (remove-less-than-from-start ∙ (var 𝟏) ∙ (var 𝟎)))))
+
+sort : {n : ℕ} {Γ : Ctx n} → Term Γ (list ⇒ list)
+sort
+ = lam list (lrec (var 𝟎) nil (lam list (lam nat (insert ∙ (var 𝟏) ∙ (var 𝟎)))))
+
+concat-env-lemma : {n₁ n₂ : ℕ} → {Γ₁ : Ctx n₁}
+                 → {Γ₂ : Ctx n₂} → {env₁ : Env Γ₁} → {env₂ : Env Γ₂}
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:64]: 3.3.2

File: source/TGH/InsertionSortCorrectness.lagda [hunk 70]
```diff
@@ -0,0 +1,760 @@
...
+                   (lam list (lam nat (cons (var 𝟎) (var 𝟏))))
+                 ＝
+                   list-rec (ys ∷E env₂) xs (var 𝟎)
+                   (lam list (lam nat (cons (var 𝟎) (var 𝟏))))
+concat-env-lemma [] = refl
+concat-env-lemma (x ∷ xs) = ap (x ∷_) (concat-env-lemma xs)
+
+concat-correctness : {n : ℕ} {Γ : Ctx n} {env : Env Γ}
+                   → (xs : List ℕ) → (ys : List ℕ)
+                   → (env [ concat ]ₑ) xs ys ＝ xs ++ ys
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:77]: 3.3.3

File: source/TGH/InsertionSortCorrectness.lagda [hunk 71]
```diff
@@ -0,0 +1,760 @@
...
+concat-correctness [] ys = refl
+concat-correctness {_} {_} {env} (x ∷ xs) ys = x ∷
+      list-rec (ys ∷E (x ∷ xs) ∷E env) xs (var 𝟎)
+      (lam list (lam nat (cons (var 𝟎) (var 𝟏))))
+      ＝⟨ ap (x ∷_) (concat-env-lemma xs) ⟩
+      (x ∷
+      list-rec (ys ∷E xs ∷E env) xs (var 𝟎)
+      (lam list (lam nat (cons (var 𝟎) (var 𝟏)))))
+      ＝⟨ ap (x ∷_) (concat-correctness xs ys) ⟩
+      x ∷ (xs ++ ys) ∎
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:87]: 5.3.1

File: source/TGH/InsertionSortCorrectness.lagda [hunk 72]
```diff
@@ -0,0 +1,760 @@
...
+                   (lam list (lam nat (cons (var 𝟎) (var 𝟏))))
+concat-env-lemma [] = refl
+concat-env-lemma (x ∷ xs) = ap (x ∷_) (concat-env-lemma xs)
+
+concat-correctness : {n : ℕ} {Γ : Ctx n} {env : Env Γ}
+                   → (xs : List ℕ) → (ys : List ℕ)
+                   → (env [ concat ]ₑ) xs ys ＝ xs ++ ys
+concat-correctness [] ys = refl
+concat-correctness {_} {_} {env} (x ∷ xs) ys = x ∷
+      list-rec (ys ∷E (x ∷ xs) ∷E env) xs (var 𝟎)
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:80]: 4.3.1

File: source/TGH/InsertionSortCorrectness.lagda [hunk 73]
```diff
@@ -0,0 +1,760 @@
...
+      list-rec (ys ∷E xs ∷E env) xs (var 𝟎)
+      (lam list (lam nat (cons (var 𝟎) (var 𝟏)))))
+      ＝⟨ ap (x ∷_) (concat-correctness xs ys) ⟩
+      x ∷ (xs ++ ys) ∎
+
+ℕ-subtract : ℕ → ℕ → ℕ
+ℕ-subtract n zero = n
+ℕ-subtract n (succ m) = pred' (ℕ-subtract n m)
+
+subtract-env-lemma : {n₁ n₂ : ℕ} → {Γ₁ : Ctx n₁} → {Γ₂ : Ctx n₂}
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:93]: 3.3.4

File: source/TGH/InsertionSortCorrectness.lagda [hunk 74]
```diff
@@ -0,0 +1,760 @@
...
+                   → {env₁ : Env Γ₁} → {env₂ : Env Γ₂}
+                   → {y₁ y₂ : ℕ}
+                   → (x y : ℕ)
+                   → nat-rec (y₁ ∷E x ∷E env₁) y (var 𝟏)
+                     (lam nat (pred (var 𝟎)))
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:98]: 4.3.2

File: source/TGH/InsertionSortCorrectness.lagda [hunk 75]
```diff
@@ -0,0 +1,760 @@
...
+                   ＝ nat-rec (y₂ ∷E x ∷E env₂)
+                      y (var 𝟏) (lam nat (pred (var 𝟎)))
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:100]: 4.3.2

File: source/TGH/InsertionSortCorrectness.lagda [hunk 76]
```diff
@@ -0,0 +1,760 @@
...
+subtract-env-lemma x zero = refl
+subtract-env-lemma x (succ y) = ap pred' (subtract-env-lemma x y)
+
+subtract-correctness : {n : ℕ} {Γ : Ctx n} {env : Env Γ} → (x y : ℕ)
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:104]: 3.3.5

File: source/TGH/InsertionSortCorrectness.lagda [hunk 77]
```diff
@@ -0,0 +1,760 @@
...
+                      → (env [ subtract ]ₑ) x y ＝ ℕ-subtract x y
+subtract-correctness x zero = refl
+subtract-correctness {_} {_} {env} x (succ y)
+ = pred' (nat-rec (succ y ∷E x ∷E env) y (var 𝟏)
+       (lam nat (pred (var 𝟎)))) ＝⟨ ap pred' (subtract-env-lemma x y)  ⟩
+       pred' (nat-rec (y ∷E x ∷E env) y (var 𝟏)
+       (lam nat (pred (var 𝟎)))) ＝⟨ ap pred' (subtract-correctness x y) ⟩
+       pred' (ℕ-subtract x y) ∎
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:112]: 5.3.2

File: source/TGH/InsertionSortCorrectness.lagda [hunk 78]
```diff
@@ -0,0 +1,760 @@
...
+
+ℕ-subtract-lemma-I : (n m : ℕ)
+                  → (n ≤ m) → ℕ-subtract n m ＝ 0
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:115]: 3.3.6

File: source/TGH/InsertionSortCorrectness.lagda [hunk 79]
```diff
@@ -0,0 +1,760 @@
...
+ℕ-subtract-lemma-I n zero n≤m = zero-least'' n n≤m
+ℕ-subtract-lemma-I n (succ m) n≤m = γ (subtraction n (succ m) n≤m)
+ where
+  γ : Σ (λ k → k + n ＝ succ m)
+    → ℕ-subtract n (succ m) ＝ 0
+  γ (zero , eq)
+   = ap pred' (transport (λ z → ℕ-subtract z m ＝ 1)
+      (( n ＝⟨ (zero-left-neutral n)⁻¹ ⟩
+      0 + n ＝⟨ eq ⟩
+      succ m ∎ )⁻¹) (γ' 1 m))
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:125]: 5.3.3

File: source/TGH/InsertionSortCorrectness.lagda [hunk 80]
```diff
@@ -0,0 +1,760 @@
...
+   where
+    γ' : (k n : ℕ) → ℕ-subtract (n + k) n ＝ k
+    γ' k zero = zero-left-neutral k
+    γ' k (succ n)
+     = pred' (ℕ-subtract (succ n + k) n)
+       ＝⟨ ap (λ z → pred' (ℕ-subtract z n)) (succ-left n k) ⟩
+       pred' (ℕ-subtract (n + succ k) n) ＝⟨ ap pred' (γ' (succ k) n) ⟩
+       pred' (succ k) ＝⟨ refl ⟩
+       k ∎
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:134]: 5.3.3

File: source/TGH/InsertionSortCorrectness.lagda [hunk 81]
```diff
@@ -0,0 +1,760 @@
...
+  γ (succ k , eq)
+   = ap pred' (ℕ-subtract-lemma-I n m (cosubtraction n m (k ,
+     ap pred' (succ (k + n) ＝⟨ (succ-left k n)⁻¹ ⟩
+     succ k + n ＝⟨ eq ⟩
+     succ m ∎))))
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:139]: 5.3.3

File: source/TGH/InsertionSortCorrectness.lagda [hunk 82]
```diff
@@ -0,0 +1,760 @@
...
+
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:140]: @TheoXIII - From this point, I have stopped repeating Corrections 2-5, as I think you probably get the idea!

File: source/TGH/InsertionSortCorrectness.lagda [hunk 83]
```diff
@@ -0,0 +1,760 @@
...
+   ((x ∷E xs ∷E env₂) [ concat ]ₑ) (((x ∷E xs ∷E env₁)
+   [ remove-greater-than-from-end ]ₑ) xs x) (x ∷ (((x ∷E xs ∷E env₁)
+   [ remove-less-than-from-start ]ₑ) xs x)) ＝⟨ ap₂ (λ w z → ((x ∷E xs ∷E env₂)
+   [ concat ]ₑ) w (x ∷ z)) (remove-greater-than-from-end-env-lemma xs)
+   (remove-less-than-from-start-env-lemma xs) ⟩
+   ((x ∷E xs ∷E env₂) [ concat ]ₑ) (((x ∷E xs ∷E env₂)
+   [ remove-greater-than-from-end ]ₑ) xs x) (x ∷ (((x ∷E xs ∷E env₂)
+   [ remove-less-than-from-start ]ₑ) xs x)) ∎
+
+sort-env-lemma : {n₁ n₂ : ℕ} {Γ₁ : Ctx n₁} {Γ₂ : Ctx n₂}
```
Comment (tnttodda) [inline source/TGH/InsertionSortCorrectness.lagda:618]: I think it’s tricky to read what’s going on in this function and the ones following it in this file; we can discuss these verbally.

File: source/TGH/Language.lagda [hunk 84]
```diff
@@ -0,0 +1,616 @@
...
+
+thunk-type {nat} x = 0 , return x
+thunk-type {list} l = 0 , return l
+thunk-type {σ ⇒ σ₁} f = (λ x → thunk-type (f (strip-thunk x))) , γ f
+  where
+    γ : {σ σ₁ : LType} (f : ⟦ σ ⟧ → ⟦ σ₁ ⟧) → (x y : ⟦ σ ⟧ᵢ) →
+      strip-thunk x ＝ strip-thunk y →
+      strip-thunk (thunk-type (f (strip-thunk x))) ＝
+      strip-thunk (thunk-type (f (strip-thunk y)))
+    γ {_} {_} f x y eq = ap (strip-thunk ∘ thunk-type ∘ f) eq
```
Comment (tnttodda) [inline source/TGH/Language.lagda:122]: 1.2.1

File: source/TGH/LastTimeListValueIndependent.lagda [hunk 85]
```diff
@@ -0,0 +1,744 @@
...
+length'-same-env (zero , return l) = ap (succ ∘ pr₁) (length'-comp-same-env l)
+length'-same-env (succ pr₃ , (√ x)) = ap succ (length'-same-env (pr₃ , x))
+
+recursive-call-comp-same-env : {n₁ n₂ : ℕ} {Γ₁ : Ctx n₁} {Γ₂ : Ctx n₂}
+                         → {env₁ : Envᵢ Γ₁}
+                         → {env₂ : Envᵢ Γ₂}
+                         → (l : (List ℕ))
+                         → (x : ℕ)
+                         → thunk-if {list} (pr₁ (env₁ [ length' ]ᵢ eager)
+                         (thunk-type l)) ((3 , (√ (√ (√ return (x ∷ []))))))
```
Comment (tnttodda) [inline source/TGH/LastTimeListValueIndependent.lagda:142]: I feel here and throughout, we can remove excessive brackets when we have multiple √ constructors (I tried this and the file type checks fine)

File: source/TGH/LastTimeListValueIndependent.lagda [hunk 86]
```diff
@@ -0,0 +1,744 @@
...
+    ((0 , return l₂) ∷Eᵢ (0 , return n₂) ∷Eᵢ (0 , return l₂) ∷Eᵢ env)
+    l₂ zero (lam nat (lam nat (suc (var 𝟏)))) eager)
+    then' 3
+    else' 1 ∎
+
+recursive-call-list-value-independent : {n : ℕ} {Γ : Ctx n} → (env : Envᵢ Γ)
+                                      → time-independent-of-list-values-n env
+                                        (inr refl) eager
+                                        (lam list (lam nat recursive-call))
+recursive-call-list-value-independent env l₁ l₂ eq n₁ n₂
```
Comment (tnttodda) [inline source/TGH/LastTimeListValueIndependent.lagda:426]: I think it’s tricky to read what’s going on in this function and the ones following it in this file; we can discuss these verbally.

File: source/TGH/NP.lagda [hunk 87]
```diff
@@ -0,0 +1,168 @@
...
+    (pr₁ (pr₁ (pr₁ (env [ lam list (lam list program) ]ᵢ eager) (thunk-type c))
+    (thunk-type l)))
+
+_∈NP : (decision : List Bool → Bool) → 𝓤₀ ̇
+_∈NP decision = Π n ꞉ ℕ , Π Γ ꞉ Ctx n ,
+                Σ program ꞉ Term (list ∷ list ∷ Γ) nat , (Σ k ꞉ ℕ , Σ C ꞉ ℕ ,
+                Π l ꞉ List Bool , Σ c ꞉ List Bool , polynomial-length l c k C
+                × ((env : Env Γ) →
+                (to-decision-verifier env program c l ＝ decision l))
+                × (verifier-polytime program))
```
Comment (tnttodda) [inline source/TGH/NP.lagda:79]: It’s hard to see the scoping of the different dependent types here. Make sure to start each on a new line and use indentation so readers can follow the scoping clearly.

File: source/TGH/NP.lagda [hunk 88]
```diff
@@ -0,0 +1,168 @@
...
+         ((0 , return c)
+         ∷Eᵢ env) le)
+         (multiplication-preserves-order-left C ((length l) ^ k)
+         ((length c + length l) ^ k)
+         (exponentiation-preserves-order-right (length l)
+         (length c + length l) k
+         (transport (_≤ length c + length l) (zero-left-neutral (length l))
+         (≤-n-monotone-right 0 (length c) (length l) ⋆))))
+
+      f : Pi (List ℕ)
```
Comment (tnttodda) [inline source/TGH/NP.lagda:143]: Please replace ‘Pi’ and ‘Sigma’ with the usual notation in this library (i.e. Π n ꞉ ℕ , etc.)

File: source/TGH/P.lagda [hunk 89]
```diff
@@ -0,0 +1,1016 @@
...
+     (((0 , return xs) ∷Eᵢ (0 , return xs) ∷Eᵢ env) [
+     pr₁ (d∈P (succ n) (list ∷ Γ)) ]ᵢ eager))))) (2 , (√ (√ return 1)))
+     (1 , (√ return 0))
+
+  timing' : (general-list-polytime (inl refl) program)
+          → general-list-polytime (inl refl)
+            (not' ∙ (lam list program ∙ var 𝟎))
+  timing' (k , C , N₀ , f) = k , C + 5 , succ N₀ , f'
+   where
+    f' : Pi (List ℕ)
```
Comment (tnttodda) [inline source/TGH/P.lagda:184]: Please replace ‘Pi’ and ‘Sigma’ with the usual notation in this library (i.e. Π n ꞉ ℕ , etc.)

File: source/TGH/PrototypeLanguage.lagda [hunk 90]
```diff
@@ -0,0 +1,697 @@
...
+    γ₁ = transport (λ y → succ (succ (pr₁ (thunk-if (nat-recᵢ
+         {1} {nat ∷ []} ((0 , return (succ n)) ∷Eᵢ []) n zero
+         (lam nat (if var 𝟎 then suc zero else zero))) (2 , (√ (√ return 1)))
+         (1 , (√ return 0))))) ≤ y) (+-comm 6 (6 * n)) IH
+
+    γ₂ : (n : ℕ) → (n < 2) → if' if' n then' 1 else' 0 then' 1 else' 0 ＝ n
+    γ₂ zero le = refl
+    γ₂ (succ zero) le = refl
+        
+    γ₃ : (n : ℕ) → force (pr₂ (thunk-if (nat-recᵢ {1} {nat ∷ []}
```
Comment (tnttodda) [inline source/TGH/PrototypeLanguage.lagda:576]: Tricky to read what’s going on in this function; we can discuss this verbally.

File: source/TGH/Thunk.lagda [hunk 91]
```diff
@@ -0,0 +1,41 @@
...
+
+Thunk : ℕ → 𝓤₀ ̇ → 𝓤₀ ̇
+Thunk n X = Thunk' X n
+
+force : {n : ℕ} {X : 𝓤₀ ̇} → Thunk n X → X
+force (return x) = x
+force (√ x)      = force x
+
+_>>=_ :  {n₁ n₂ : ℕ} {X Y : 𝓤₀ ̇}
+      -> Thunk n₁ X → (X → Thunk n₂ Y) → Thunk (n₂ + n₁) Y
```
Comment (tnttodda) [inline source/TGH/Thunk.lagda:31]: `->` should be `→`
